US08937091B2
Chloroacetyl benzene 8240
Benzene (0.5 mL), chloroacetyl chloride (120 mg), and aluminium chloride (180 mg) were reacted in dichloromethane (1.5 mL) at from −40° C. to room temperature for 2 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (11 mg).

reactant | Benzene | 0.5 mL | C1=CC=CC=C1 | C6H6
reactant | chloroacetyl chloride | 120 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium chloride | 180 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Chloroacetyl benzene | 11 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
